US07427632B2
5-Chloro-N-[(R)-2-(1-isopropylpiperidine-4-ylmethoxy)-1-phenylethyl]-1H-indole-2-carboxamide hydrochloride
Using coupling method A, (R)-2-(1-isopropylpiperidin-4-ylmethoxy)-1-phenylethylamine (200 mg, 0.73 mmol) and 5-chloroindole-2-carboxylic acid (142 mg, 0.75 mmol) afforded, after purification (SiO2: 4:2:1 DCM:EtOAc:isopropylamine) and conversion to the HCl salt by general method A, 320 mg (92%) of the title compound.

reactant | (R)-2-(1-isopropylpiperidin-4-ylmethoxy)-1-phenylethylamine | 0.73 mmol, 200 mg | C(C)(C)N1CCC(CC1)COC[C@@H](C1=CC=CC=C1)N | C17H28N2O
reactant | 5-chloroindole-2-carboxylic acid | 0.75 mmol, 142 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
product | 5-Chloro-N-[(R)-2-(1-isopropylpiperidine-4-ylmethoxy)-1-phenylethyl]-1H-indole-2-carboxamide hydrochloride | Cl.ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@@H](COCC1CCN(CC1)C(C)C)C1=CC=CC=C1 | InChI=1S/C26H32ClN3O2.ClH/c1-18(2)30-12-10-19(11-13-30)16-32-17-25(20-6-4-3-5-7-20)29-26(31)24-15-21-14-22(27)8-9-23(21)28-24;/h3-9,14-15,18-19,25,28H,10-13,16-17H2,1-2H3,(H,29,31);1H/t25-;/m0./s1
